US05359055
A mixture of 10.3 mg (0.00997 mmole) of tris(dibenzylideneacetone)dipalladium(chloroform), 19.9 μl (0.0798 mmole) of tributylphosphine and 5 ml of dry 1,4-dioxane was stirred in an atmosphere of argon gas at room temperature for 10 minutes. To this mixture was added a solution of 43.6 mg (0.0798 mmole) of 20-(5,5-dimethyl-1,3-dioxan-2-yl)-1α,2α-epoxy-7α-methoxycarbonyloxypregn-5-en-3β-yl acetate in 2 ml of dry 1,4-dioxane, and the mixture was refluxed for 8 hours. The reaction mixture was cooled to room temperature and filtered through a glass filter with the aid of Florisil. The filtrate was concentrated under reduced pressure and the concentrate was purified by silica gel chromatography (eluent: ether-hexane=1:10, v/v) to give 17.4 mg of 20-(5,5-dimethyl-1,3-dioxan-2-yl)-1α,2α-epoxypregna-5,7-dien-3β-yl acetate. In addition, 15.3 mg of the starting compound 20-(5,5-dimethyl-1,3-dioxan-2-yl)-1α,2α-epoxy-7α-methoxycarbonyloxypregn-5-en-3β-yl acetate was recovered. The yield of 20-(5,5-dimethyl-1,3-dioxan-2-yl)-1α,2α-epoxypregna-5,7-dien-3β-yl acetate was 71% based on consumed 20-(5,5-dimethyl-1,3-dioxan-2-yl)-1α,2α-epoxy-7α-methoxycarbonyloxypregn-5-en-3β-yl acetate.

reactant | tributylphosphine | 0.0798 mmole, 19.9 μl | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 20-(5,5-dimethyl-1,3-dioxan-2-yl)-1α,2α-epoxy-7α-methoxycarbonyloxypregn-5-en-3β-yl acetate | 0.0798 mmole, 43.6 mg | C(C)(=O)O[C@@H]1CC2=C[C@H]([C@H]3[C@@H]4CC[C@H](C(C)C5OCC(CO5)(C)C)[C@]4(CC[C@@H]3[C@]2([C@@H]2[C@H]1O2)C)C)OC(=O)OC | C31H46O8
solvent | 1,4-dioxane | 2 ml | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | 20-(5,5-dimethyl-1,3-dioxan-2-yl)-1α,2α-epoxypregna-5,7-dien-3β-yl acetate | 17.4 mg | C(C)(=O)O[C@@H]1CC2=CC=C3[C@@H]4CC[C@H](C(C)C5OCC(CO5)(C)C)[C@]4(CC[C@@H]3[C@]2([C@@H]2[C@H]1O2)C)C | C29H42O5
